US04909829
A solution of 1.8 g (0.0052 mole) of 1-(3-chloro-6-fluoro-3,4-dihydroquinolin-2(1H)-one-7-yl)-4-(3-fluoropropyl)-1,4-dihydro-5H-tetrazol-5-one and 1.1 g (0.0079 mole) of potassium carbonate in 50 mL of dimethylformamide was stirred at room temperature for 30 minutes. To this solution was added 1.6 g (0.011 mole) of 2-iodoethane, and the reaction mixture was stirred at room temperature for one hour, then was heated at 40° C. for two days. The reaction mixture was heated at 70° C. for four hours, then was cooled and poured into icewater. This mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate, filtered, and the filtrate was evaporated under reduced pressure leaving a residue. This residue was purified by column chromatography on silica gel, eluting with ethyl acetate:n-hexane (75:25), to yield 0.77 g of 1[1 -ethyl-6-fluoroquinolin-2(1H)-one-7-yl]-4-(3-fluoropropyl)-1,4-dihydro-5H-tetrazol-5-one as an oil.

reactant | 1-(3-chloro-6-fluoro-3,4-dihydroquinolin-2(1H)-one-7-yl)-4-(3-fluoropropyl)-1,4-dihydro-5H-tetrazol-5-one | 0.0052 mole, 1.8 g | ClC1C(NC2=CC(=C(C=C2C1)F)N1N=NN(C1=O)CCCF)=O | C13H12ClF2N5O2
reactant | potassium carbonate | 0.0079 mole, 1.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-iodoethane | 0.011 mole, 1.6 g | ICC | C2H5I
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 1[1 -ethyl-6-fluoroquinolin-2(1H)-one-7-yl]-4-(3-fluoropropyl)-1,4-dihydro-5H-tetrazol-5-one | 0.77 g | C(C)N1C(C=CC2=CC(=C(C=C12)N1N=NN(C1=O)CCCF)F)=O | C15H15F2N5O2
